Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Vertigo
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is a ___ year-old right-handed man with HTN, HLD, 
recent right cerebellar infarct who presents with spells of 
severe vertigo.  Referred to the ED today by Dr. ___.

The patient is a poor historian so the details of the HPI are 
limited. He was well until ___ when he developed sudden 
onset severe nausea and room-spinning vertigo that was worse 
with position change.  He presented to a local urgent care at 
that time and was diagnosed with peripheral vertigo, given 
meclizine. His nausea resolved but when room-spinning persistent 
he called his PCP who eventually got an outpatient MRI that in 
fact confirmed a right cerebellar infarct.  Subsequent admission 
to ___ where CTA was done showed a diminutive 
ectatic right vertebral artery with diffuse atherosclerosis of 
the posterior circulation/basilar. Normal echo, A1c 6.4%. He has 
been on ASA 325mg and since that time continues to have 
intermittent neurological symptoms--predominantly right sided 
headaches and a positional "lightheadedness" that is worse on 
standing, resolves with rest.  He has been told he has positive 
orthostatics in the past and has been drinking fluids to 
compensate.  Presented to our ED on ___ for LLE swelling and 
had negative DVT workup,
treated for gout flare.

He presents back to our today acutely after 3 brief vertigo 
spells in the past 24 hours that are supposedly different from 
his usual dizziness-- reportedly more severe and unprovoked.  
First was yesterday at 3PM while sitting down reading.  Lasted 1 
minute, no associated HA, vision change, weakness, 
incoordination.  He resumed normal activity that day and went to 
bed normally.  He had at least 2 more discrete spells today, one 
that was definitely with leftward head turn.  He was very 
concerned that he was having another stroke, contacted ___ and 
reached Dr. ___ heard the limited history and urged ED 
eval.  Code Stroke called on arrival by ED resident who was 
unsure of time LSW, and fear that he may have had another spell 
in the
waiting room.  NIHSS-0.  CTA unchanged from ___. No tPA was 
given. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, tinnitus or hearing 
difficulty. Denies difficulties producing or comprehending 
speech.  Denies focal weakness, numbness, parasthesiae. No bowel 
or bladder incontinence or retention. Denies difficulty with 
gait.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

Prior studies (done after his right cerebellar stroke was 
discovered):

MRI of the brain with and without contrast and of the internal 
auditory canal on ___ at ___:
Results:  There is no evidence of a mass or abnormal contrast 
enhancement in either cerebellopontine angle or internal 
auditory canal.  No enhancing mass is seen elsewhere in the 
brain. Diffusion weighted images show multiple foci of 
hyperintense signal in the right cerebellum, most of which are 
located posteriorly in the right cerebellar hemisphere.  
However, there is also one involving the right cerebellar 
tonsil, which demonstrates decreased signal on the apparent 
diffusion coefficient images and increased signal on the FLAIR 
and T2-weighted images.  No associated contrast enhancement is 
seen.  No abnormal mass effect is seen in the brain.  No midline 
shift or hydrocephalus is noted.  No focal abnormal extraaxial 
fluid collection is seen.  The cerebellar tonsils are normal in 
location.  The paranasal and mastoid sinuses are clear.
Impression:
1.  No evidence of an acoustic neuroma.
2.  Multiple right cerebellar lesions are seen that do not show 
contrast enhancement or abnormal mass effect, most compatible 
with subacute infarcts.  Followup MRI was recommended in three 
months to exclude other etiologies.

CT angiogram of the head and neck from ___ done at 
___ : Impression:  No evidence for dissection or 
abrupt occlusion.  The right vertebral artery is markedly 
diminutive.
Results:  The origins of the common carotid and left vertebral 
arteries are normal.  The right vertebral artery is markedly 
diminutive, but is contiguous.  There is no abrupt occlusion or 
signs of dissection.  The basilar artery is normally opacified.  
There is no evidence of an aneurysm involving the circle of 
___.  There are no enhancing parenchymal mass lesions.  
Paranasal sinuses are clear.  The nasopharyngeal, oropharyngeal, 
and hypopharyngeal soft tissues are symmetric.  The 
submandibular and parotid glands are normal.  There are no 
apical lung lesions.

Ultrasound of the left leg from ___:
Impression:  No acute deep venous thrombosis.

Transthoracic echocardiogram from ___ done at ___ 
___: Conclusions:
1.  Technically difficult study with suboptimal views.
2.  Left ventricular size and wall thickness are normal.
3.  Estimated left ventricular ejection fraction of 60%.
4.  Doppler indices indicate impaired LV relaxation.
5.  Aortic valve leaflets are mildly thickened.
6.  Mild mitral annular calcification is present.
7.  Mild mitral regurgitation is present.
8.  Trace mild (physiologic) pulmonic regurgitation is present.

Carotid ultrasound done on ___ at ___:
Impression:
1.  The internal carotid arteries bilaterally demonstrate mildly 
irregular heterogeneous plaque with flow velocities compatible 
with ___ range of stenosis bilaterally.
2.  The vertebral arteries demonstrate antegrade flow 
bilaterally with the left vertebral artery being dominant.

ESR on ___ was 51 (reference range less than 15 mm/hr).

 
Past Medical History:
-HTN
-HLD
-gout
-R cerebellar stroke
-DM
-hypothyroidism
-low back pain, hx of lumbar surgery
-anxiety
 
Social History:
___
Family History:
Father with DM and throat cancer.  Mother with DM and stroke in 
old age.
 
Physical Exam:
ADMISSION PHYSICAL EXAM (___):

Vitals: 98.2 65 128/86 16 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx, no tenderness to palpation of the temporal arteries, 
intact temporal artery pulsations.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

ADMISSION NEUROLOGIC EXAM (___):

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.  Head impulse negative.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.   Romberg absent.

DISCHARGE PHYSICAL EXAM (___):

Vitals: 97.8  128/86 16 100% RA 
General: Anxious, generally well-appearing, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

DISCHARGE NEUROLOGIC EXAM (___):

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally, negative head 
impulse test.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.  Head impulse negative.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.   Romberg absent.

 
Pertinent Results:
LABS ON ADMISSION (___):

___ 06:31PM   CREAT-0.9
___ 06:31PM   estGFR-Using this
___ 06:28PM   GLUCOSE-180* NA+-139 K+-4.0 CL--103 TCO2-23
___ 06:05PM   UREA N-23*
___ 06:05PM   WBC-6.8 RBC-4.57* HGB-13.0* HCT-38.3* MCV-84 
MCH-28.4 MCHC-33.9 RDW-12.4 RDWSD-37.5
___ 06:05PM   NEUTS-79.2* LYMPHS-16.5* MONOS-3.2* EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-5.38 AbsLymp-1.12* AbsMono-0.22 
AbsEos-0.00* AbsBaso-0.01
___ 06:05PM   PLT COUNT-334
___ 06:05PM   ___ PTT-33.8 ___

IMAGING:

CTA HEAD & NECK (___):
Focal hypodensity in the right cerebellar hemispheres on image 
4:6, most 
likely in keeping with a chronic infarct. 
  
There is no evidence of no evidence of recent infarction, 
hemorrhage, edema, 
or mass. The ventricles and sulci are normal in size and 
configuration. 
  
There is intracranial atherosclerotic calcification. 
  
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle 
ear cavities are clear. The visualized portion of the orbits are 
unremarkable. 
  
CTA HEAD: 
Atherosclerotic calcification of bilateral cavernous carotid and 
supraclinoid 
carotid arteries.  The vessels of the circle of ___ and their 
principal 
intracranial branches otherwise appear unremarkable without  
occlusion or 
aneurysm formation. The dural venous sinuses are patent. 
  
CTA NECK: 
The left vertebral artery arises from the aortic arch.  The 
right vertebral 
artery is hypoplastic and gives nearly all its flow to the 
posterior inferior 
cerebellar artery with a tiny branch continue point join the 
basilar artery.  
Mild atherosclerosis near the bifurcation of left internal 
carotid artery.  
The vertebral arteries appear unremarkable.  There is no 
evidence of internal 
carotid stenosis by NASCET criteria. 
  
OTHER: 
The visualized portion of the lungs are clear.  The visualized 
portion of the 
thyroid gland is within normal limits. There is no 
lymphadenopathy by CT size 
criteria. 

IMPRESSION:  
1. Mild atherosclerotic calcification. 
2. Chronic infarct in the right cerebellar hemisphere. 
3. No acute intracranial abnormality.

MRI & MRA BRAIN AND MRA (___):
Results: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.   The ventricles and sulci are normal in caliber 
and 
configuration.  There is no abnormal enhancement after contrast 
administration. 
  
Few scattered foci of T2/FLAIR hyperintensity in the subcortical 
and 
periventricular white matter, see image 11:13 an 11:16.  These 
are 
nonspecific, can be seen with small vessel ischemic disease, 
headache are 
hypertension. 
  
Focal FLAIR signal abnormality in the right cerebellar 
hemisphere posteriorly 
on image 11:5 in keeping with a prior insult. 
  
The orbits are unremarkable.  Visualized paranasal sinuses and 
left mastoid 
air cells are clear.  Nonspecific fluid opacification of right 
mastoid air 
cells. 
The neck vessels cannot be reliably evaluated on this 
examination. 
MRA brain:  Luminal irregularity and narrowing involving the 
left vertebral 
artery, likely secondary to atherosclerotic calcification.  The 
right 
vertebral artery is very diminutive.  Also seen is luminal 
irregularity 
involving bilateral cavernous and supraclinoid internal carotid 
arteries in 
keeping with atherosclerotic calcification.  The intracranial 
vertebral and 
internal carotid arteries and their major branches appear 
otherwise 
unremarkable without evidence of stenosis, occlusion, or 
aneurysm formation. 
  
MRA neck:  There is delayed contrast opacification of bilateral 
carotid 
arteries.  This severely compromises the quality of the study.  
The neck 
vessels cannot be reliably evaluated on this examination. 

IMPRESSION: 
1. No acute intracranial abnormality. 
2. Intracranial atherosclerotic calcification.  Otherwise, 
unremarkable MRA of 
the brain. 
3. Technically unsuccessful and nondiagnostic MRA of the neck. 

LABS ON DISCHARGE (___):

NONE

 
Brief Hospital Course:
Patient is a ___ year old man with a past medical history 
significant for HTN, HLD, DM, and recent right cerebellar stroke 
in ___, who presented to ___ with three episodes of 
vertigo for the past 24 hours, which he describes to have been 
more severe than his usual dizziness. One episode was provoked 
by head turning to the left, while another episode occurred 
while patient was lying down with his eyes closed. The third 
episode occurred while sitting down and reading. There was no 
associated headache, vision change, jaw claudication, weakness, 
incoordination, etc. Concerned he was having another stroke, 
patient went to ED after conveying a limited history to Dr. 
___.

In the ED, code stroke was called by ED resident who was unsure 
of a left-sided weakness and fear that he may have had another 
episode in the waiting room. NIHSS was 0, CTA was unchanged from 
___. No iv tPA was given. CTA brain/neck showed no acute 
intracranial hemorrhage or acute large territorial infarct. 
There was 50% narrowing of the left vertebral artery due to 
atherosclerosis, especially in the left V4 segment, however. The 
right vertebral also showed a small diameter that seems 
congenitally smaller. The right vertebral primarily ends as the 
right posterior inferior cerebellar artery but there is a small 
branch that continues distally to supply the basilar artery. 
Outpatient TTE on ___ (without bubbles) did not show any 
intracardiac source of embolism. There was no PFO or ASD 
detected. The etiology of his chronic right cerebellar infarct 
was likely due to artery to artery embolism from the right 
vertebral artery. TTE without bubbles did not show a 
cardioembolic or paradoxical embolic source but this study was 
done without bubbles. Given some concern of temporal arteritis 
by his PCP, patient was on prednisone at this time.

On admission to ___ Neurology, patient underwent further 
evaluation for vertigo, including a negative ___ (see 
admission neurologic exam) and negative orthostatics. Labs were 
negative for r/o etiologies. Patient also received an MRI brain, 
MRA brain and MRA neck, which showed the chronic infarcts in the 
right cerebellar hemisphere. There were a few non-specific, 
scattered foci of T2/FLAIR hyperintensity in the subcortical and 
periventricular white matter, which may be due to small vessel 
ischemic disease and HTN. However, there was no evidence of 
acute hemorrhage, edema, masses, mass effect, midline shift, or 
acute infarction. Given these exam, lab, and imaging findings 
for vertiginous episodes that were associated w/ head turning 
and eye-closing, patient was assessed to likely have a 
peripheral vestibulopathy. GCA was determined to be unlikely 
given patient's age, lack of clinical symptoms and good temporal 
pulses on exam, and prednisone was thus discontinued. TIA was 
also found to be less likely given stereotyped nature of events. 
At this point, plan is for patient to receive vestibular therapy 
on an outpatient basis and follow-up with PCP. Also, given 
dizziness is a potential side effect of fluoxetine (incidence of 
9%), patient can be observed to see if dizziness resolves since 
fluoxetine was recently stopped per patient's report.

For secondary stroke prevention, he should continue aspirin 
325mg daily. He should continue atorvastatin 20mg qhs for a goal 
LDL of less than 70. He should continue metformin. He should aim 
for a hb1ac of less than 7%. He is not currently needing an 
anti-hypertensive medication. Over the long term, he should aim 
for BP less than 140/90 but should be careful not to be 
hypotensive (BP less than 90/60) given that he has 
atherosclerosis of his vertebral arteries and a small right 
vertebral artery. 

There was no apparent swelling or erythema of his left leg 
during this admission. He did have some pain of the dorsum of 
his left foot and ankle. Given concern regarding his episodic 
left leg swelling and pain, and concern for gout, will refer him 
to Rheumatology at ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Medications:
1. Outpatient Physical Therapy
Vestibular Therapy 
ICD 9 386.10 
2. Aspirin 325 mg PO DAILY 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Vertigo 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to stroke neurology for dizziness. You had 
brain imaging that did not find new stroke. You dizziness is 
likely due to an inner ear pathology, so recommend vestibular 
therapy as an outpatient. 

We recommend using ice and NSAIDs to control your foot pain. You 
may discuss continuation of steroids with your PCP, but these 
have undesirable side effects for your diabetes and we do no 
recommend you take them.

Please follow up with your PCP & Neurology. 
Please take all your medications as prescribed. 

Sincerely, 
YOUR ___ Neurology Team 
 
Followup Instructions:
___